US05726306
To a suspension of (3R,5S)-7-chloro-5-(2-methoxyphenyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid (12 g) in methanol (200 ml) was added 1N aqueous sodium hydroxide (27.7 ml). After the acid was dissolved completely, the mixture was concentrated in vacuo. To the residue was added ethyl acetate (200 ml) and the mixture was concentrated in vacuo. The deposited crystals were collected to give sodium (3R,5S)-7-chloro-5-(2-methoxyphenyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate (11.8 g) as colorless crystals (mp>300° C.).

reactant | (3R,5S)-7-chloro-5-(2-methoxyphenyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid | 12 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(C)(C)C)=O)CC(=O)O)C2=C(C=CC=C2)OC)C1 | C23H26ClNO5
reactant | sodium hydroxide | 1N, 27.7 ml | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | sodium (3R,5S)-7-chloro-5-(2-methoxyphenyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetate | 11.8 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(C)(C)C)=O)CC(=O)[O-])C2=C(C=CC=C2)OC)C1.[Na+] | InChI=1S/C23H26ClNO5.Na/c1-23(2,3)13-25-17-10-9-14(24)11-16(17)21(15-7-5-6-8-18(15)29-4)30-19(22(25)28)12-20(26)27;/h5-11,19,21H,12-13H2,1-4H3,(H,26,27);/q;+1/p-1/t19-,21-;/m1./s1
